US07745663B2
3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-(3-oxo-isoxazolidin-2-yl methyl)-benzamide (Compound G-2)
To (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-methylcarbamoyl-ethoxyimino)-methyl]-benzamide (9.60 g, 15.54 mmol) were added sequentially dichloromethane (300 ml) and borane-pyridine complex (11.70 ml, 115.80 mmol) to give a suspension. This mixture was stirred at room temperature, and dichloroacetic acid (9.51 ml, 115.80 mmol) was added dropwise thereto over 10 minutes. After the mixture was stirred at room temperature for 13 hours, dichloromethane was removed under reduced pressure with a rotary evaporator, and the resultant residue was diluted with 1,2-dichloroethane (300 ml). This mixture was stirred at 60° C. for 6 hours, diluted with ethyl acetate, and washed sequentially with 0.1 M aqueous hydrochloric acid, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (8.28 g, 90% yield).

reactant | (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-methylcarbamoyl-ethoxyimino)-methyl]-benzamide | 15.54 mmol, 9.60 g | FC=1C(=C(C(=O)NOCCO)C=C(C1F)/C=N/OCCC(NC)=O)NC1=C(C=C(C=C1)I)F | C20H20F3IN4O5
reactant | dichloroacetic acid | 115.80 mmol, 9.51 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-(3-oxo-isoxazolidin-2-yl methyl)-benzamide | 8.28 g, 90% yield | FC=1C(=C(C(=O)NOCCO)C=C(C1F)CN1OCCC1=O)NC1=C(C=C(C=C1)I)F | C19H17F3IN3O5
